US08957069B2
1-(2,2,4,6,7-Pentamethyl-2,3-dihydro-1-benzofuran-5-yl)-4-[4-(trifluoromethoxy)phenyl]piperazine
By using 1-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine (311 mg, 1.0 mmol) synthesized in Reference example 61 and 1-bromo-4-(trifluoromethoxy)benzene (0.223 mL, 1.5 mmol), the reaction was carried out in the same manner as Example 1 to synthesize the title compound 221 mg (yield 51%). Melting point was 216 to 219° C. (hexane).

reactant | 1-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine | 1.0 mmol, 311 mg | CC1(OC2=C(C1)C(=C(C(=C2C)C)N2CCNCC2)C)C | C17H26N2O
reactant | 1-bromo-4-(trifluoromethoxy)benzene | 1.5 mmol, 0.223 mL | BrC1=CC=C(C=C1)OC(F)(F)F | C7H4BrF3O
product | 1-(2,2,4,6,7-Pentamethyl-2,3-dihydro-1-benzofuran-5-yl)-4-[4-(trifluoromethoxy)phenyl]piperazine | 221 mg, yield 51% | CC1(OC2=C(C1)C(=C(C(=C2C)C)N2CCN(CC2)C2=CC=C(C=C2)OC(F)(F)F)C)C | C24H29F3N2O2
